US05900145
Preparation of 4'-butenyloxybiphenyl-4-ol (I)
A solution containing 4,4'-Dihydroxybiphenyl (5 g,26.75 mmol), KOH (1.65 g, 29.5 mmol) and methanol (50 ml) was refluxed for 2 hours. 4-Bromo-1-butene (3.975 g, 29.5 mmol) in methanol (10 ml) was added dropwise over a period of 2 hours to the refluxing reaction mixture. The refluxation was continued for 24 hours. The solvent was then removed. The product was then extracted by dichloromethane (50 ml) and dichloromethane was then removed. The resulting solid was washed with 10% potassium hydroxide solution (17 ml), filtered and recrystallized from ethanol: water (1.1 v/v) mixture. Yield 12%, m.p. 155-157° C.

reactant | 4,4'-Dihydroxybiphenyl | 26.75 mmol, 5 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | KOH | 29.5 mmol, 1.65 g | [OH-].[K+]
reactant | 4-Bromo-1-butene | 29.5 mmol, 3.975 g | BrCCC=C | C4H7Br
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 4'-butenyloxybiphenyl-4-ol | Yield 12% | C(=CCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C16H16O2
